US05866568
Lithium tetrahydridoaluminate (20.5 ml of a 1M solution in ether) was added over 10 minutes to a solution of 2-[4-(2,3-epoxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (1.8 g) in anhydrous THF at 0° C. After 30 minutes the reaction mixture was poured into saturated aqueous ammonium chloride solution (50 ml) and was extracted with ethyl acetate (4×50 ml). The extracts were washed with brine and dried (MgSO4). Volatile material was removed by evaporation and the residue was purified by gradient elution with 0-80% ethyl acetate/hexane through a silica gel Mega Bond Elut column to give 2-[4-(2-hydroxy-2-methylpropyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (0.115 g) as a foam; 1H NMR (CDCl3 +CD3COOD): 1.3 (s, 6 H), 2.3 (s, 3 H), 2.8 (s, 2 H), 3.8 (s, 3 H), 7.2-7.3 (m, 5 H), 7.55 (dd, 1 H), 8.7 (dd, 1 H), 8.85 (dd, 1 H); mass spectrum (+ve ESP): 429 (M+H)+.

reactant | Lithium tetrahydridoaluminate | [Li+].[AlH4-]
reactant | 2-[4-(2,3-epoxy-2-methylpropyl)phenyl]-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 1.8 g | O1C(CC2=CC=C(C=C2)C2=NC=CC=C2S(=O)(=O)N(C2=NC=C(N=C2OC)C)C(=O)OCC(C)C)(C1)C | C26H30N4O6S
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-(2-hydroxy-2-methylpropyl)phenyl]-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 0.115 g | OC(CC1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)NC1=NC=C(N=C1OC)C)(C)C | C21H24N4O4S
